US08227462B2
Imidazole-1-carboxylic acid {4-methyl-5-[2-(2-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-yl}-amide
Carbonyl diimidazole (487 mg) is added to a solution of 4-methyl-5-[2-(2-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine (370 mg) and triethylamine (251 μl) in DMF (1.5 ml) at room temperature and then heated for 2 hours at 40° C. The reaction mixture is evaporated and triturated with chloroform. The title compound is isolated by filtration.

reactant | Carbonyl diimidazole | 487 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-methyl-5-[2-(2-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine | 370 mg | CC=1N=C(SC1C1=NC(=NC=C1)C1C(C1)C)N | C12H14N4S
reactant | triethylamine | 251 μl | C(C)N(CC)CC | C6H15N
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | Imidazole-1-carboxylic acid {4-methyl-5-[2-(2-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-yl}-amide | CC=1N=C(SC1C1=NC(=NC=C1)C1C(C1)C)NC(=O)N1C=NC=C1 | C16H16N6OS
